US07259266B2
Step2 1. Preparation of ethyl 8-(iodomethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The suspension, of polymer bound triphenylphosphine (0.29 g, 0. 88 mmole), in anhydrous CH2Cl2 (5 mL) was cooled to 0° C. (ice bath) and stirred for 15 minutes. The ethyl 8-(hydroxymethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 605b, Step 1 (0.20 g, 0.63 mmole), imidazole (0.06 g, 0.88 mmole) and iodine (0.19 g, 0.76 mmole) were added to above suspension, which was allowed to stir for 15 minutes at 0° C. The mixture was warmed to room temperature and stirred for an additional 3 hours. The resulting mixture was filtered through a plug of celite and condensed in vacuo to give an oil. The oil was purified by flash chromatography (silica gel) with 50% methylene chloride in hexane to give a light yellow oil (0.14 g, 79%): GCMS m/z 426.00 (M+). 1H NMR (CDCl3/400 MHz) 7.64 (s, 1H), 7.11 (s, 1H), 6.94 (s, 1H), 5.79 (q, 1H, J=7.0 Hz), 4.44 (m, 2H), 4.31 (m, 2H), 2.24 (s, 3H), 1.33 (m, 3H).

reactant | triphenylphosphine | 88 mmole, 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 8-(hydroxymethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | OCC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C15H15F3O4
reactant | imidazole | 0.88 mmole, 0.06 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 0.76 mmole, 0.19 g | II | I2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl 8-(iodomethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.14 g, 79% | ICC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C15H14F3IO3
